US05736539
1-tert-Butoxycarbonyl-2(S)-(3-methoxy-1-propyl)piperazine
The title compound was prepared according to the procedure described in Example 2, Step C, except using 4-benzyl-1-tert-butoxycarbonyl-2(S)-(3-methoxy-1-propyl)piperazine (0.870 g, 2.50 mmol) and 10% palladium on carbon (200 mg). The title compound was obtained as an oil (0.450 g). NMR (CDCl3, 300 MHz) δ 4.05 (1H, m), 3.85 (1H, m), 3.40 (2H, m), 3.35 (3H, s), 2.90 (5H, m), 2.70 (1H, dt, J=4, 7 Hz), 1.50-2.0 (4H, m), 1.45 (9H, s).

reactant | 4-benzyl-1-tert-butoxycarbonyl-2(S)-(3-methoxy-1-propyl)piperazine | 2.50 mmol, 0.870 g | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCOC | C20H32N2O3
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 1-tert-Butoxycarbonyl-2(S)-(3-methoxy-1-propyl)piperazine | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCCOC | C13H26N2O3
